US04145347
From 9.3 g. of ethyl 2-methyl-5-oxo-1-pyrrolidineacetate and 10.7 g. of 2-(1-piperidinyl)propylamine (J. Chem. Soc. 1947, 1511), following the procedure of Example 9, there is obtained (±)-2-methyl-5-oxo-N-[2-(1-piperidinyl)propyl]-1-pyrrolidineacetamide; m.p. 111°-112° C. after recrystallization from heptane.

reactant | ethyl 2-methyl-5-oxo-1-pyrrolidineacetate | CC1N(C(CC1)=O)CC(=O)OCC | C9H15NO3
reactant | 2-(1-piperidinyl)propylamine | N1(CCCCC1)C(CN)C | C8H18N2
product | (±)-2-methyl-5-oxo-N-[2-(1-piperidinyl)propyl]-1-pyrrolidineacetamide | CC1N(C(CC1)=O)CC(=O)NCC(C)N1CCCCC1 | C15H27N3O2
